US09290451B2
b) 6-(3-Chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid and (2S)-2-amino-4-methyl-pentanamide (CAN 687-51-4) as starting materials, MS (EI): m/e=437.2 [M+H]+.

reactant | 6-(3-chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid | ClC=1C=C(C=CC1)C1=C(C=CC(=N1)C(=O)O)N1CC(C1)(F)F | C15H11ClF2N2O2
reactant | (2S)-2-amino-4-methyl-pentanamide | N[C@H](C(=O)N)CC(C)C | C6H14N2O
product | 6-(3-Chloro-phenyl)-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid ((S)-1-carbamoyl-3-methyl-butyl)-amide | C(N)(=O)[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)C1=CC(=CC=C1)Cl | C21H23ClF2N4O2
